US05716954
6-(n-Butyl)-pyrrolo[3,4-b]pyridine-5,7-dione (20 g, 98 mmole) was dissolved in toluene (500 mL) and cooled to -65° C. To this mixture was added 3-chlorophenylmagnesium bromide (prepared by heating under reflux 2.5 g magnesium metal, 20 g of 3-chlorobromobenzene and 100 mL of tetrahydrofuran for 1 hour) at such a rate that the temperature of the reaction remain below -40° C. After the addition was complete, the cooling bath was removed and the mixture was allowed to warm to 0° C. The reaction mixture was quenched with aqueous ammonium chloride (25 mL) diluted with ethyl acetate (250 mL) and water (250 mL). After separating the resulting 2 layers, the organic fraction was dried with sodium sulfate (50 g). Filtration, followed by solvent removal gave 7-hydroxy-7-(3-chlorophenyl)-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one as an oil, which was used in the next reaction without further purification.

reactant | 6-(n-Butyl)-pyrrolo[3,4-b]pyridine-5,7-dione | 98 mmole, 20 g | C(CCC)N1C(C2=NC=CC=C2C1=O)=O | C11H12N2O2
reactant | 3-chlorophenylmagnesium bromide | 100 mL, 2.5 g | ClC=1C=C(C=CC1)[Mg]Br
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 7-hydroxy-7-(3-chlorophenyl)-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one | OC1(N(C(C=2C1=NC=CC2)=O)CCCC)C2=CC(=CC=C2)Cl | C17H17ClN2O2
